US08614206B2
To a solution of (Z)-2,3,6,7-tetrahydro-1H-azepine hydrochloride (32.3 g, 0.24 mmol) in DMSO (650 mL) was added 3-chloro-1-methyl-4-nitro-1H-pyrazole (37.2 g, 0.23 mmol) followed by DIPEA (64 mL, 0.36 mmol) and potassium fluoride (56.2 g, 0.96 mmol). The reaction mixture was heated at 75° C. for 25 hr before being cooled to room temperature, poured into water (1.5 L) and extracted with EtOAc (4×500 mL). The combined organic layers were washed with water (400 mL) and brine (300 mL), separated, dried over MgSO4 and concentrated under reduced pressure to give (Z)-1-(1-methyl-4-nitro-1H-pyrazol-3-yl)-2,3,6,7-tetrahydro-1H-azepine as a light brown solid (50.7 g). To a solution of this solid (1.80 g, 8.1 mmol) in ethanol (80 mL) and water (8 mL) was added ammonium chloride (2.15 g, 40.1 mmol) and iron powder (1.77 g, 31.8 mmol). The reaction mixture was heated at 80° C. for 1.5 hr, before being cooled to room temperature, filtered through Celite® and concentrated under reduced pressure. The residue was dissolved in DCM (200 mL) and washed with water (200 mL). The aqueous layer was extracted with DCM (100 mL) and the combined organic layers were dried over MgSO4 and concentrated under reduced pressure to give (Z)-1-methyl-3-(2,3,6,7-tetrahydro-1H-azepin-1-yl)-1H-pyrazol-4-amine as a brown oil (1.36 g, 87%). A solution of HATU (3.22 g, 8.47 mmol), 5-(tert-butoxycarbonylamino)-2-(2,6-difluorophenyl)-thiazole-4-carboxylic acid (2.52 g, 7.07 mmol), (Z)-1-methyl-3-(2,3,6,7-tetrahydro-1H-azepin-1-yl)-1H-pyrazol-4-amine (1.36 g, 7.07 mmol) and DIPEA (2.48 mL, 14.2 mmol) in DMF (30 mL) was stirred at room temperature for 18 hr. The reaction mixture was diluted with DCM (50 mL) and washed with water (100 mL). The organic layer was passed through a phase separation cartridge and concentrated under reduced pressure. Purification of the residue via silica gel column chromatography (5-80% 10% MeOH in DCM/DCM) gave (Z)-tert-butyl 2-(2,6-difluorophenyl)-4-(1-methyl-5-(2,3,6,7-tetrahydro-1H-azepin-1-yl)-1H-pyrazol-4-ylcarbamoyl)thiazol-5-ylcarbamate as a brown solid (2.71 g, 72% over two steps). 1H NMR (400 MHz, CDCl3) δ 10.39 (s, 1H), 8.82 (s, 1H), 7.85 (s, 1H), 7.40-7.30 (m, 1H), 7.08-6.99 (m, 2H), 5.93-5.84 (m, 2H), 3.77 (s, 3H), 3.19 (t, J=5.1 Hz, 4H), 2.42-2.37 (m, 4H), 1.58-1.48 (m, 9H).

reactant | HATU | 8.47 mmol, 3.22 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 5-(tert-butoxycarbonylamino)-2-(2,6-difluorophenyl)-thiazole-4-carboxylic acid | 7.07 mmol, 2.52 g | C(C)(C)(C)OC(=O)NC1=C(N=C(S1)C1=C(C=CC=C1F)F)C(=O)O | C15H14F2N2O4S
reactant | (Z)-1-methyl-3-(2,3,6,7-tetrahydro-1H-azepin-1-yl)-1H-pyrazol-4-amine | 7.07 mmol, 1.36 g | CN1N=C(C(=C1)N)N1CC\C=C/CC1 | C10H16N4
reactant | DIPEA | 14.2 mmol, 2.48 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
product | (Z)-tert-butyl 2-(2,6-difluorophenyl)-4-(1-methyl-5-(2,3,6,7-tetrahydro-1H-azepin-1-yl)-1H-pyrazol-4-ylcarbamoyl)thiazol-5-ylcarbamate | FC1=C(C(=CC=C1)F)C=1SC(=C(N1)C(NC=1C=NN(C1N1CC\C=C/CC1)C)=O)NC(OC(C)(C)C)=O | C25H28F2N6O3S
